US06455587B1
Preparation of Nα,Nδ-di-(9-Fluorenylmethoxycarbonyl)-L-ornithine (Compound No. 73)
The reaction of 9-fluorenylmethyl chloroformate with L-ornithine according to the conditions described in example 2 provided the title product in 79% yield.

reactant | 9-fluorenylmethyl chloroformate | ClC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12 | C15H11ClO2
reactant | L-ornithine | N[C@@H](CCCN)C(=O)O | C5H12N2O2
product | Nα,Nδ-di-(9-Fluorenylmethoxycarbonyl)-L-ornithine | 79% yield | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N[C@@H](CCCNC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)C(=O)O | C35H32N2O6
